US07622480B2
Preparation of 2-{2-[4-(1-butyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-4-methoxy-benzoic acid
This compound was prepared following the procedure described in example 4, part E and F starting with 2.5 g (9.1 mmol) of 1-butyl-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine and 3.3 g (13.6 mmol) of 2-(2-chloroethoxy)-4-methoxy-benzoic acid methyl ester. After standard purification the overall yield was 35% (0.77 g).

reactant | 1-butyl-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine | 9.1 mmol, 2.5 g | C(CCC)N1C=C(C=2C1=NC=CC2)N2CCCCC2 | C16H23N3
reactant | 2-(2-chloroethoxy)-4-methoxy-benzoic acid methyl ester | 13.6 mmol, 3.3 g | COC(C1=C(C=C(C=C1)OC)OCCCl)=O | C11H13ClO4
product | 2-{2-[4-(1-butyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-4-methoxy-benzoic acid | yield was 35% | C(CCC)N1C=C(C=2C1=NC=CC2)C2CCN(CC2)CCOC2=C(C(=O)O)C=CC(=C2)OC | C26H33N3O4
